US06649608B2
5-Bromo-2-chloro-4-(4-methoxyphenoxy)pyrimidine
A mixture of 5-bromo-2,4-dichloropyrimidine (5.0 g, 22.0 mmol), 4-methoxyphenol (2.72 g, 22.0 mmol) and potassium carbonate (6.07 g, 44.0 mmol) in DMF (20 ml) was stirred for 24 hours. The mixture was added to water (100 ml) and the solid which separated out was collected by filtration, washed with water (50 ml) and dried under high vacuum to give the product (6.6 g, 96%). NMR: 3.8 (s, 3H), 7.0 (d, 2H), 7.2 (d, 2H), 8.8 (s, 1H).

reactant | 5-bromo-2,4-dichloropyrimidine | 22.0 mmol, 5.0 g | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | 4-methoxyphenol | 22.0 mmol, 2.72 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | potassium carbonate | 44.0 mmol, 6.07 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 100 ml | O | H2O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 5-Bromo-2-chloro-4-(4-methoxyphenoxy)pyrimidine | 6.6 g, 96% | BrC=1C(=NC(=NC1)Cl)OC1=CC=C(C=C1)OC | C11H8BrClN2O2
